US07115624B1
To a suspension of the above 2-(1,4-dioxa-8-aza-spiro[4.5]dec-7-ylmethyl)-isoindole-1,3-dione hydrochloride (0.7 g, 2.1 mmol) and ethyl chloroformate (0.24 ml, 2.5 mmol) in dry tetrahydrofuran (14 ml) cooled in an ice bath under nitrogen was added diisopropylethylamine (0.95 ml, 5.4 mmol) and the reaction mixture was stirred at ambient temperature for 3 hours. The volatiles were removed in vacuo and the residue was partitioned between dichloromethane (25 ml) and 1N hydrochloric acid (25 ml). The layers were separated, and the aqueous layer extracted with dichloromethane (20 ml). The combined organic extracts were washed with a saturated sodium bicarbonate solution (50 ml), dried (MgSO4), filtered and the solvent evaporated in vacuo. The residue was triturated with n-butylchloride, filtered and dried with nitrogen which afforded 0.47 g (61%) of 7-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-1,4-dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid ethyl ester.

reactant | 2-(1,4-dioxa-8-aza-spiro[4.5]dec-7-ylmethyl)-isoindole-1,3-dione hydrochloride | 2.1 mmol, 0.7 g | Cl.O1CCOC12CC(NCC2)CN2C(C1=CC=CC=C1C2=O)=O
reactant | ethyl chloroformate | 2.5 mmol, 0.24 ml | ClC(=O)OCC | C3H5ClO2
reactant | diisopropylethylamine | 5.4 mmol, 0.95 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | 7-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-1,4-dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid ethyl ester | 0.47 g, 61% | C(C)OC(=O)N1C(CC2(OCCO2)CC1)CN1C(C2=CC=CC=C2C1=O)=O | C19H22N2O6
